Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Tetracyclines
 
Attending: ___.
 
Chief Complaint:
Severe jaw/chest pain and diaphoresis on exertion

 
Major Surgical or Invasive Procedure:
___ - Coronary artery bypass grafting x 3 with the left 
internal mammary artery to the diagonal artery and reverse 
saphenous vein graft to the posterior descending artery and 
obtuse marginal artery.

 
History of Present Illness:
___ y.o. male with HTN, HLD, prediabetes, strong family history 
of premature CAD, and current smoker developed severe jaw/chest 
pain, SOB, and diaphoresis on
___ while moving lawn up an incline. Resolved with 
rest after 30 min. Reports ongoing episodes of severe heartburn 
since last ___ and GI workup was negative to date and 
scheduled to have EGD soon. For the past month has been 
experiencing chest tightness with SOB with exertion which 
resolves with rest. Yesterday went to PCP, sent to urgent care, 
and then sent to ___. In the ER c/o chest fullness but 
nothing similar to events on ___. No ischemic EKG changes 
but report right bundle branch block. Similar to ___. 
Troponins negative x3. Patient sent to ___ for cardiac 
catheterization which revealed coronary artery disease. Patient 
to be evaluated for coronary artery bypass graft.
 
Past Medical History:
Allergic rhinitis
Anxiety
Depression
Gastroesophageal Reflux Disease
Hemorrhoids
Hyperlipidemia
Hypertension
Pre-diabetes

 
Social History:
___
Family History:
Father had rheumatic fever and died at age ___ of MI
Maternal grandfather died of "heart disease" at ___
 
Physical Exam:
Pulse:71 Resp:13  O2 sat:99% RA 
B/P  Right:145/87    Left:149/74 
Height:70.5 in     Weight:108.9 kg

General: No acute distress 
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck: Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x] Irregular [] Murmur none 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema none 
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:  +2  Left: +2
DP           Right:  +1  Left: +1
___           Right:  +1  Left: +1
Radial       Right:  TR band   Left: +1 

Carotid Bruit:       Right: no bruit     Left: no bruit 

Discharge PE:
VS: ___, 128/70, 70, 18, 92% RA O2 SAT
I/O:1560/1750//SMN:120/750

General:A&O x3, NAD
___
Lungs:bibasilar few crackles
Abd:benign
___ edema
Wounds:C/D/I, sternum stable. No rock/ click

 
Pertinent Results:
Cardiac Catheterization ___:
Severe 3 Vessel CAD involving the left main coronary artery. 
Ostial circumflex disease. Calcified 80% mid RCA stenosis.

Transesophageal Echocardiogram ___:
Pre Bypass: 
The left atrium is mildly dilated. No thrombus is seen in the 
left atrial appendage. No atrial septal defect is seen by 2D or 
color Doppler. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. There 
is mild to moderate regional left ventricular systolic 
dysfunction with septal and mid to distal anteroseptal 
hypokinesis. LVEF 40%. Right ventricular chamber size is normal 
with mild global free wall hypokinesis. Tricuspid annular plane 
systolic excursion is mildly depressed (1.4 cm) consistent with 
right ventricular systolic dysfunction. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion. There is no aortic valve stenosis. ___ aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild to moderate (___) central mitral regurgitation 
is seen. 

Post Bypass: 
Patient is in SR, on phenylephrine infusion. Unchanged 
biventricular systolic fxn. 1+ MR. ___ AI. ___ intact.  

___ 03:28AM BLOOD WBC-13.6* RBC-3.17* Hgb-10.3* Hct-30.8* 
MCV-97 MCH-32.5* MCHC-33.4 RDW-12.8 RDWSD-46.0 Plt ___
___ 01:50PM BLOOD WBC-8.4 RBC-4.72 Hgb-15.4 Hct-44.4 MCV-94 
MCH-32.6* MCHC-34.7 RDW-12.6 RDWSD-43.4 Plt ___
___ 03:28AM BLOOD ___
___ 01:50PM BLOOD ___ PTT-150* ___
___ 03:28AM BLOOD Glucose-120* UreaN-14 Creat-0.8 Na-140 
K-3.9 Cl-103 HCO3-25 AnGap-12
___ 01:50PM BLOOD Glucose-106* UreaN-13 Creat-0.7 Na-141 
K-4.9 Cl-102 HCO3-22 AnGap-17

___ 05:50AM BLOOD WBC-12.4* RBC-3.50* Hgb-11.2* Hct-34.1* 
MCV-97 MCH-32.0 MCHC-32.8 RDW-12.7 RDWSD-45.6 Plt ___
___ 05:50AM BLOOD Glucose-125* UreaN-19 Creat-0.9 Na-141 
K-4.0 Cl-99 HCO3-26 AnGap-16
 
Brief Hospital Course:
___ underwent routine preoperative testing and evaluation. 
He remained clinically stable and was taken to the operating 
room on ___. He underwent coronary artery bypass graft x 3 
(left internal mammary artery to the diagonal artery and reverse 
saphenous vein graft to the posterior descending artery and
obtuse marginal artery). Please see operative note for surgical 
details. Following surgery he was transferred to the CVICU for 
invasive monitoring in stable condition.

 Later that day he was weaned from sedation, awoke 
neurologically intact and was then extubated. Beta blocker was 
initiated and he was gently diuresed toward the his preoperative 
weight. He was transferred to the telemetry floor for further 
recovery. Chest tubes and pacing wires were discontinued without 
complication. 
He was evaluated by the physical therapy service for assistance 
with strength and mobility. By the time of discharge on POD # 4 
he was ambulating freely, the wound was healing and pain was 
controlled with oral analgesics. He was discharged to home with 
___ services in good condition with appropriate follow up 
instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q24H 
2. Lisinopril 10 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Venlafaxine XR 75 mg PO DAILY 
5. Aspirin EC 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1 
3.  Furosemide 20 mg PO DAILY Duration: 7 Days 
RX *furosemide [Lasix] 20 mg 1 tablet(s) by mouth daily Disp #*7 
Tablet Refills:*0 
4.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *hydromorphone 2 mg ___ tablet(s) by mouth q4h prn Disp #*50 
Tablet Refills:*0 
5.  Metoprolol Tartrate 37.5 mg PO TID 
RX *metoprolol tartrate 37.5 mg 1 tablet(s) by mouth three times 
a day Disp #*90 Tablet Refills:*1 
6.  Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
x 7 days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*7 Tablet Refills:*0 
7.  Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*1 
8.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Q ___ Disp #*30 
Tablet Refills:*1 
9.  Pantoprazole 40 mg PO Q24H  
10.  Venlafaxine XR 75 mg PO DAILY  
11. HELD- Lisinopril 10 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until reevaluated by Cardiologist

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p coronary artery bypass graft x 3
Past medical history:
Hypertension
Hyperlipidemia
Pre diabetes
GERD
Anxiety
Depression
Hemorrhoids
Allergic rhinitis
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with 
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage.
Edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___